US09315491B2
4-[6-Chloro-5-ethoxy-2-(4-nitro-phenyl)-pyrimidin-4-yl]-morpholine
4,6-dichloro-5-ethoxy-2-(4-nitro-phenyl)-pyrimidine (0.50 g, 1.0 eq) was stirred in dichloromethane (10 mL) and a solution of morpholine (0.21 mL, 1.5 eq) in dichloromethane (5 mL) was added dropwise at 0° C. After stirring the resulting solution overnight at r.t., NH4Cl (aq) was added to the solution and the solution was extracted with dichloromethane. The combined organic layers were washed with brine, dried and evaporated in vacuo. A product was obtained as a white solid (0.57 g, 81%).

reactant | 4,6-dichloro-5-ethoxy-2-(4-nitro-phenyl)-pyrimidine | 0.50 g, 1.0 eq | ClC1=NC(=NC(=C1OCC)Cl)C1=CC=C(C=C1)[N+](=O)[O-] | C12H9Cl2N3O3
reactant | morpholine | 0.21 mL, 1.5 eq | N1CCOCC1 | C4H9NO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-[6-Chloro-5-ethoxy-2-(4-nitro-phenyl)-pyrimidin-4-yl]-morpholine | 0.57 g, 81% | ClC1=C(C(=NC(=N1)C1=CC=C(C=C1)[N+](=O)[O-])N1CCOCC1)OCC | C16H17ClN4O4
